US05811459
4-[3-(2-Benzyloxy-4-cyanophenyl)propyl]benzoic acid
2-Benzyloxy-4-cyanobenzaldehyde and 4-carboxyphenethyltriphenylphosphonium bromide were converted to a mixture of 4-[3-(2-benzyloxy-4-cyanophenyl)prop-2-enyl]benzoic acid and 4-[3-(2-benzyloxy -4-cyanophenyl)prop-1-enyl]benzoic acid by a similar method to that of Example 1, (G). The alkenes were converted to the required 4-[3-(2-hydroxy-4-cyanophenyl)propyl)benzoic acid by a similar method to that of Example 33, Footnote a.

reactant | 2-Benzyloxy-4-cyanobenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)C#N | C15H11NO2
reactant | 4-carboxyphenethyltriphenylphosphonium bromide | [Br-].C(=O)(O)C1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 4-[3-(2-benzyloxy-4-cyanophenyl)prop-2-enyl]benzoic acid | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C#N)C=CCC1=CC=C(C(=O)O)C=C1 | C24H19NO3
reactant | 4-[3-(2-benzyloxy -4-cyanophenyl)prop-1-enyl]benzoic acid | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C#N)CC=CC1=CC=C(C(=O)O)C=C1 | C24H19NO3
reactant | 4-[3-(2-hydroxy-4-cyanophenyl)propyl)benzoic acid | OC1=C(C=CC(=C1)C#N)CCCC1=CC=C(C(=O)O)C=C1 | C17H15NO3
product | 4-[3-(2-Benzyloxy-4-cyanophenyl)propyl]benzoic acid | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C#N)CCCC1=CC=C(C(=O)O)C=C1 | C24H21NO3
